US05817691
Preparation of 2-(p-chlorophenyl)-5-[(3,4-dichlorophenyl)thio]-1-(ethoxymethyl)pyrrole-3-carbonitrile
A mixture of 2-(p-chlorophenyl)-5-[(3,4-dichlorophenyl)thio]pyrrole-3-carbonitrile (820 mg, 2.16 mmol) and potassium tert-butoxide (266 mg, 2.37 mmol) in tetrahydrofuran is stirred at room temperature for 30 minutes, treated with chloromethyl ethyl ether (225 mg, 2.37 mmol), stirred at room temperature for 4 hours, and diluted with water and ethyl acetate. The phases are separated and the aqueous phase is extracted with ethyl acetate. The organic phase and extracts are combined, washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a syrup. The syrup is crystallized from an ethyl acetate/hexanes solution to give the title product as a solid (780 mg, mp 95°-97° C.).

reactant | 2-(p-chlorophenyl)-5-[(3,4-dichlorophenyl)thio]pyrrole-3-carbonitrile | 2.16 mmol, 820 mg | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)SC1=CC(=C(C=C1)Cl)Cl | C17H9Cl3N2S
reactant | potassium tert-butoxide | 2.37 mmol, 266 mg | CC(C)([O-])C.[K+]
reactant | chloromethyl ethyl ether | 2.37 mmol, 225 mg | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(p-chlorophenyl)-5-[(3,4-dichlorophenyl)thio]-1-(ethoxymethyl)pyrrole-3-carbonitrile | 780 mg | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)SC1=CC(=C(C=C1)Cl)Cl)COCC | C20H15Cl3N2OS
